US06956049B1
N-[(Hydroxyamino)methylene]-cinnamamide (850 mg, 4.5 mmol) was dissolved in acetic acid/dioxane (20 mL 1:1 v:v), and heated to reflux for 2 h. The cooled solution was made basic (pH 8) with K2CO3, and partitioned between ethyl acetate and water. The organics were dried over Na2SO4, and concentrated in vacuo. The resultant solids were triturated with hot ethyl acetate, and the soluble portion was purified by flash column chromatography on silica eluting with 2:1 hexane:ethyl acetate to afford 5-[(E)-2-phenylethenyl]-1,2,4-oxadiazole (60 mg, 8% yield) as a white powder. M.p. 53–55° C. 1H NMR (CDCl3, 300 MHz) δ8.43 (s, 1H), 7.85 (d, J=16 Hz, 1H), 7.60 (m, 2H), 7.45 (m, 3H), 7.05 (d, J=16 Hz, 1H). MS (EI ionization) 171 (M+−H).

reactant | N-[(Hydroxyamino)methylene]-cinnamamide | 4.5 mmol, 850 mg | ONC=NC(C=CC1=CC=CC=C1)=O | C10H10N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid dioxane | 20 mL | C(C)(=O)O.O1CCOCC1
product | 5-[(E)-2-phenylethenyl]-1,2,4-oxadiazole | 60 mg, 8% yield | C1(=CC=CC=C1)/C=C/C1=NC=NO1 | C10H8N2O
